US07632783B2
3-(5-acetyl-3,3-dimethyl-3,4-dihydroisoquinolin-1-yl)quinoline (Compound No. 1-114) (Process B)
Tributyl (1-ethoxyvinyl) tin (0.85 mL, 2.4 mmol) and dichlorobis(triphenylphosphine)palladium (15.8 mg, 0.022 mmol) were added to a toluene solution (0.9 mL) of 3-(5-bromo-3,3-dimethyl-3,4-dihydroisoquinolin-1-yl)quinoline (806 mg, 2.2 mmol), and after stirring for 3 hours at 100° C., dilute hydrochloric acid was added to temporarily acidify followed by basifying with ammonium water, filtering, concentrating the filtrate and applying the resulting residue to chromatography to obtain 647 mg of the target compound (yield: 89%).

reactant | Tributyl (1-ethoxyvinyl) tin | 2.4 mmol, 0.85 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | 3-(5-bromo-3,3-dimethyl-3,4-dihydroisoquinolin-1-yl)quinoline | 2.2 mmol, 806 mg | BrC1=C2CC(N=C(C2=CC=C1)C=1C=NC2=CC=CC=C2C1)(C)C | C20H17BrN2
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium water | O.[NH4+]
catalyst | dichlorobis(triphenylphosphine)palladium | 0.022 mmol, 15.8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | toluene | 0.9 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(5-acetyl-3,3-dimethyl-3,4-dihydroisoquinolin-1-yl)quinoline | 647 mg, yield: 89% | C(C)(=O)C1=C2CC(N=C(C2=CC=C1)C=1C=NC2=CC=CC=C2C1)(C)C | C22H20N2O
